data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2966,3315,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6]([CH3:7])=[O+:8][C-:9]([C:10]#[N:11])[C:12]#[N:13]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:9]([C:10]#[N:11])([C:12]#[N:13])[O:8][C:6]1([CH3:5])[CH3:7],water,298.15,14.931958494702224,-34.575899095576155
2090,2318,[CH3:16][O:17][C:18](=[O:19])[c:20]1[nH+:21][c-:22]([C:23](=[O:24])[O:25][CH3:26])[c:27](=[O:28])[o:29]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]1([C:18]([O:17][CH3:16])=[O:19])[NH:21][C:22]2([C:23](=[O:24])[O:25][CH3:26])[C:27](=[O:28])[O:29]1,water,298.15,18.3769328947397,-15.722906011660676
4882,5566,[CH3:10][C:11](=[O:12])[C:13]([C:14]([CH3:15])=[O:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:19]([CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:17]([CH3:18])[C:13]1([C:11]([CH3:10])=[O:12])[C:14]([CH3:15])=[O:16],water,298.15,47.00867337054349,4.876344335632512
1854,2056,[CH2:17]=[N+:18]([CH3:19])[N-:20][CH3:21].[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([Br:11])([Br:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([Br:11])([Br:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[N:20]([CH3:21])[N:18]([CH3:19])[CH2:17]2,water,298.15,18.031671125724653,-38.35981717582927
1394,1535,[CH3:15][C:16](=[O:17])[c-:18]1[o+:19][c:20]([C:21]#[N:22])[o:23][c:24]1=[O:25].[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]#[C:7][C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]2=[C:7]([C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:18]1([C:16]([CH3:15])=[O:17])[O:19][C:20]2([C:21]#[N:22])[O:23][C:24]1=[O:25],water,298.15,13.707640200210662,-24.31859632630988
4884,5568,[CH3:10][C:11](=[O:12])[C:13]([C:14]([CH3:15])=[O:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:19]([CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:17]([CH3:18])[C:13]1([C:11]([CH3:10])=[O:12])[C:14]([CH3:15])=[O:16],water,298.15,55.94105470969254,9.627034011217653
1957,2168,[CH3:19][NH:20][C:21](=[O:22])[c-:23]1[o+:24][n:25][o:26][c:27]1=[O:28].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[N:25]1[O:24][C:23]2([C:21]([NH:20][CH3:19])=[O:22])[C:27](=[O:28])[O:26]1,water,298.15,16.655104191355093,-24.540736426388023
4642,5295,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[c:14]1[nH+:15][c-:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:23](=[O:24])[o:25]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]1([C:12]([CH3:11])=[O:13])[NH:15][C:16]2([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[C:23](=[O:24])[O:25]1,water,298.15,29.689035851612434,3.6460501496284
3821,4373,[CH3:9][O:10][C:11](=[O:12])[N-:13][N+:14]#[C:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:13]([C:11]([O:10][CH3:9])=[O:12])[N:14]=[C:15]1[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,18.424347012738327,-39.22605160630153
4,4,[CH3:1][C:2]#[C:3][CH3:4].[CH3:5][N-:6][N+:7]#[C:8][C:9]([CH3:10])=[O:11]>>[CH3:1][c:2]1[c:3]([CH3:4])[n:6]([CH3:5])[n:7][c:8]1[C:9]([CH3:10])=[O:11],water,298.15,23.4380941749408,-84.83645875007423
1294,1416,[CH3:13][O:14][C:15](=[O:16])[CH:17]=[NH+:18][C-:19]([CH3:20])[CH3:21].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:19]([CH3:20])([CH3:21])[NH:18][CH:17]2[C:15]([O:14][CH3:13])=[O:16],water,298.15,22.71344190723018,-8.456450531912731
1505,1660,[CH2-:17][NH+:18]=[C:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]3[CH:14]([CH:15]1[O:16]2)[CH2:17][NH:18][C:19]3([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,13.792129535512366,-41.82034355448005
